US09056859B2
Step E: 5-bromo-3,4-dihydro-1H-isochromene-1-carbaldehyde
A solution of 5-bromo-N-methyl-N-(methyloxy)-3,4-dihydro-1H-isochromene-1-carboxamide (3.0 g, 10 mmol) in 60 mL of anhydrous THF was cooled to −30° C. and then DIBAL-H (20 mmol) was added. The mixture was stirred at −30° C. for 1 hours. The reaction was quenched with water, extracted with DCM. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated. The crude 5-bromo-3,4-dihydro-1H-isochromene-1-carbaldehyde was used for next step without purification.

reactant | 5-bromo-N-methyl-N-(methyloxy)-3,4-dihydro-1H-isochromene-1-carboxamide | 10 mmol, 3.0 g | BrC1=C2CCOC(C2=CC=C1)C(=O)N(OC)C | C12H14BrNO3
reactant | DIBAL-H | 20 mmol | CC(C)C[AlH]CC(C)C
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 5-bromo-3,4-dihydro-1H-isochromene-1-carbaldehyde | BrC1=C2CCOC(C2=CC=C1)C=O | C10H9BrO2
